* nominal energy: th23  fire=A+B  CL=10fF
.hdl "/usr/local/share/xyce/verilog-a/psp103/psp103.va"
.include "/usr/local/src/kestrel/sim/models/sg13g2_psp103_tt.lib"
.include "/usr/local/src/ldx/asic/cells/th22.sp"
.include "/usr/local/src/ldx/asic/cells/th_gates.sp"
.include "/usr/local/src/mylex/nulex/lib/th_cells_sg13g2.sp"
VDD vdd 0 1.2
VSS vss 0 0
VA a 0 PWL(0 0 1.9n 0 2n 1.2 5.9n 1.2 6n 0 12n 0)
VB b 0 PWL(0 0 1.9n 0 2n 1.2 5.9n 1.2 6n 0 12n 0)
VC c 0 0
X1 a b c y vdd vss th23
CL y 0 10f
.tran 2p 12n
.print tran V(y)
.measure tran QOP INTEG I(VDD) from=1.9n to=10n
.measure tran EOP PARAM {-1.2*QOP}
.measure tran YMAX MAX V(y) from=1.9n to=10n
.measure tran YEND FIND V(y) AT=9.9n
.measure tran TD TRIG V(a) VAL=0.6 RISE=1 TARG V(y) VAL=0.6 RISE=1
.end
